US07304081B2
4-(1-{[1-(4-Chlorophenyl)-3-(methoxymethoxy)cyclobutyl]carbonyl}pyrrolidin-3-yl)pyridine
To a solution of 1-(4-chlorophenyl)-3-(methoxymethoxy)cyclobutanecarboxylic acid in methylene chloride was add DIEA, and the mixture was stirred for 10 minutes. Then BOP was added and the mixture was stirred for 20 minutes. Then 4-pyrrolin-3-ylpyridine hydrochloride was added and the resulting mixture was stirred at room temperature overnight. The completion of the reaction was determined by LCMS. The reaction mixture then was poured in to a saturated NaHCO3 aqueous solution and the resulting mxitre was extract with CH2Cl2 (2×). The combined organic layers were dried over MgSO4, then filtered and then concentrated in-vacuo. The crude product was purified by flash column chromatography with MeOH/CH2Cl2 (1%, 3%, 5%, 7%) to afford the desired product (24.1 mg). The identification of the product was confirmed by LCMS and 1H NMR. LC/MS: 401.2 (M+H+).

reactant | 1-(4-chlorophenyl)-3-(methoxymethoxy)cyclobutanecarboxylic acid | ClC1=CC=C(C=C1)C1(CC(C1)OCOC)C(=O)O | C13H15ClO4
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-pyrrolin-3-ylpyridine hydrochloride | Cl.N1CC(C=C1)C1=NC=CC=C1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(1-{[1-(4-Chlorophenyl)-3-(methoxymethoxy)cyclobutyl]carbonyl}pyrrolidin-3-yl)pyridine | 24.1 mg | ClC1=CC=C(C=C1)C1(CC(C1)OCOC)C(=O)N1CC(CC1)C1=CC=NC=C1 | C22H25ClN2O3
